US06100260
1,3-Di-(tert-butoxycarbonyl)-1,2-dimethyl-isothiourea
1,3-Di-(tert-butoxycarbonyl)-2-methyl-isothiourea (Japanese Patent Unexamined Publication No. 2-3661) (2.00 g) was dissolved in N,N-dimethylformamide (20 ml), followed by adding thereto 60% sodium hydride (331 mg), and the resulting mixture was stirred at 50° C. for 2 hours. After the mixture was cooled to 0° C., methyl iodide (1.96 g) was added and the resulting mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, and the extract solution was washed with water and dried. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography to obtain the desired compound (2.07 g).

reactant | 1,3-Di-(tert-butoxycarbonyl)-2-methyl-isothiourea | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | sodium hydride | 331 mg | [H-].[Na+]
reactant | methyl iodide | 1.96 g | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(tert-butoxycarbonyl)-1,2-dimethyl-isothiourea | 2.07 g | C(C)(C)(C)OC(=O)N(C(SC)=NC(=O)OC(C)(C)C)C | C13H24N2O4S
